Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
 This patient endorses approximately one week of exertional 
substernal pressure-like chest discomfort radiating to his left 
neck. He states that yesterday his pressure was constant. Today 
again his chest pressure is exertional in nature. He was seen at 
his primary care physician for this complaint her EKG was 
obtained which demonstrated precordial lead abnormalities he was 
sent for evaluation. He has no chest pain at present.  
 In the ED, initial VS were 98.1 128/92 57 14 96%RA  
 Exam notable for "well appearing"  
 Labs showed troponin 0.36, normal lactate, CBC, and chem7 and 
coags  
 No imaging obtained in ED.  
 Patient received: heparin 4000U bolus and gtt at 950  
 Cardiology was consulted who recommended:  
 ___ year old male with hx of HLD presenting with new onset chest 
pain on exertion since ___. Has been intermittent, 
substernal, with some atypical features including feeling 
"swelling in neck". Patient is a rough historian and it the 
story of whether there has been rest component to the pain is 
unclear. Last chest pain was early today while climbing stairs. 
EKG concerning given biphasic t waves in v1-v3 with t wave 
inversions in lead 1 and AVL. Even though patient reports no 
symptoms now at rest, given concerning ekg findings for LAD 
lesion, along with new onset angina will trend trops and treat 
with heparin/admit to ___. Patient seen with Dr. ___ 
 
 Decision was made to admit to medicine for further management.  

 Vitals prior to transfer were 98.0 49 ___ 98%  
 On arrival to the floor, patient reports onset of symptoms on 
___. He woke up to go for a jog, but felt substeral chest 
pressure, nausea, and dyspnea; denies numbness/tingling. It was 
a ___ and lasted for ___ hours, constantly. He notes that he 
first started taking a higher dose of allopurinol (increase from 
100mg to 300mg) that day for the first time. He skipped 
allopurinol the next day when he went to help his daughter move, 
which involved going up four flights of stairs repeatedly 
carrying heavy loads, and he was asymptomatic. The next day and 
intermittently ___, he had pressure/discomfort that went 
from his teeth to his epigastrium. It worsened with exertion 
(lifting things, going up stairs) and improved with rest, 
noticed while at work as a ___. On ___, he noted the 
discomfort along with diaphoresis and sought medical care. He 
received 81mg x4 of ASA prior to arrival from EMTs. He notes 
that he drank approximately 7 beers over the weekend to 
celebrate after moving his daughter. His last alcohol prior to 
this was on the ___ holiday.  
 He currently denies any symptoms including no chest pain, 
dyspnea, pressure, diaphoresis. 
 
Past Medical History:
 h/o recent aspiration pneumonia  
 gout  
 hyperlipidemia  
 lumbar disc disease (L5-S1 herniation with S1 nerve root 
irritation)  
 GERD  
 Erectile dysfunction  
 Endochondroma  
 duodenoal ulcer  
 fatty liver  

 
Social History:
___
Family History:
Father ___ Cancer - stomach  
 Mother Alive  
 ___ Uncle Cancer - stomach  
 Sister ___ Cancer - lung  

 
Physical Exam:
 ADMISSION PHYSICAL EXAM:  
 VS: 98.6 106/71 54 18 99%RA  
 Wt: 179lb  
 GENERAL: Thin, no acute distress  
 HEENT: NCAT, EOMI, PERRLA, injected sclera bilaterally, MMM  
 NECK: supple, no elevated JVP  
 CARDIAC: RRR, no m/r/g  
 LUNG: CTAB, no wheezes or rhonchi  
 ABDOMEN: soft, nontender, nondistended  
 EXTREMITIES: no peripheral edema, 2+ DP and radial pulses 
bilaterally  
 NEURO: A&Ox4, no focal deficits  
 SKIN: no rashes or lesions  
 ACCESS: PIVs  

 
Pertinent Results:
___ 04:36PM BLOOD WBC-9.2 RBC-4.83 Hgb-15.0 Hct-44.2 MCV-92 
MCH-31.1 MCHC-33.9 RDW-12.5 RDWSD-41.2 Plt ___
___ 04:36PM BLOOD ___ PTT-32.9 ___
___ 04:36PM BLOOD Glucose-93 UreaN-17 Creat-0.9 Na-138 
K-4.9 Cl-100 HCO3-28 AnGap-15
___ 04:36PM BLOOD CK(CPK)-149
___ 04:36PM BLOOD cTropnT-0.36*
___ 07:10AM BLOOD cTropnT-0.49*
___ 02:00AM BLOOD cTropnT-0.63*
___ 07:20AM BLOOD CK-MB-10 MB Indx-7.1* cTropnT-0.53*
___ 07:10AM BLOOD Calcium-9.6 Phos-3.0 Mg-2.3
___ 04:46PM BLOOD Lactate-1.5

CORONARY CATHETERIZATION ___:
Coronary Anatomy
Dominance: Left
* Left Main Coronary Artery
The LMCA is normal.
* Left Anterior Descending
The LAD has a 99% proximal ulcerated and thrombotic stenosis 
involving bifurcation with a very large first
septal branch.. Tandem 30% stenoses in the mid segment.
S1 with 60% ostial stenosis.
* Circumflex
The Circumflex is a large dominant vessel with 50-60% ___ 
stenosis. In addition there is a 50% distal
stenosis just before osterolaterals arise..
The ___ Marginal is a large branch with 40% ostial stenosis..
* Right Coronary Artery
The RCA is a non-dominant vessel with 30% ___ stenosis.

*****2 vessel CAD with clear culprit stenosis in LAD.
Successful PTCA/stent of LAD using bare metal stent, and POBA of 
jailed S1.*****
 
Brief Hospital Course:
In brief this is a ___ year old man with h/o gout and GI bleeding 
with presenting with intermittent chest discomfort over the past 
week. He describes discomfort from his upper teeth to xiphoid 
process. He had initially attributed this to his allopurinol, 
and called his doctor's office at which time they referred him 
to the ED. 

In the ED he was noted to have EKG changes in I, avL and V3-V5. 
Overnight his trop T trended from 0.36 -> 0.49. He was given 
ASA, statin, beta blocker, and heparin gtt. He denied chest pain 
since admission.

___ Endoscopy contacted regarding results of biopsy, 
revealing single cratered nonbleeding 5mm ulcer was found in the 
duodenal bulb.GIB history and endoscopy reviewed with GI team, 
no indication for rescoping at this time.

Underwent Cath with following results: with 99% LAD, 50-60% LCx. 
Had discussion with patient regarding options of bare metal 
stenting vs CABG (bare metal stents secondary to prior GI bleed) 
given 2 vessel CAD, with clear culprit stenosis in LAD. Each has 
pros and cons. However, patient has an active life-style (works 
as a ___) and clearly prefers stenting. Underwent 
PTCA/stent of LAD using bare metal stent, and POBA of jailed S1.

Patient unable to have TTE as inpatient. He will have one in the 
following weeks as part of his cardiology follow up appointment.

TRANSITIONAL ISSUES
=====================
ASA 81mg QD indefinitely. Plavix 75mg QD for minimum 1 month, 
but preferably 12 months given clinical
presentation and thrombus in LAD.
Beta blocker and lisinopril deferred due to bradycardia and 
hypotension.
Will need aggressive secondary prevention and life-style 
modifications.
Consider outpatient stress test to assess significance of LCX 
stenosis.
Please repeat echocardiogram as outpatient 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Restasis unknown  Other unknown 
2. Artificial Tears Preserv. Free ___ DROP BOTH EYES PRN dry 
eyes 
3. Omeprazole 20 mg PO DAILY 
4. Sildenafil Dose is Unknown  PO PRN before sex 
5. Allopurinol ___ mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin [Adult Low Dose Aspirin] 81 mg 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0 
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
3.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
4.  Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth daily Disp #*60 
Tablet Refills:*0 
5.  Cyclosporine 0.05% Ophth Emulsion 0.05 % OTHER Frequency is 
Unknown  
6.  Sildenafil 20 mg PO PRN before sex 
DO NOT TAKE WITHIN 48HR OF NITRO  
7.  Allopurinol ___ mg PO DAILY  
8.  Artificial Tears Preserv. Free ___ DROP BOTH EYES PRN dry 
eyes  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
------------------
NSTEMI

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___

 It was a pleasure taking care of you at the ___ 
___. You were admitted because you had a 
small heart attack. 
 
 It is very important to take all of your heart healthy 
medications. Very importantly, you are now taking aspirin and 
clopidogrel (also known as Plavix). These two medications keep 
the stents in the vessels of the heart open and help reduce your 
risk of having a future heart attack. If you stop these 
medications or miss ___ dose, you risk causing a blood clot 
forming in your heart stents, and you may die from a massive 
heart attack. Please do not stop taking either medication 
without taking to your heart doctor, even if another doctor 
tells you to stop the medications.  
  
 You may schedule an echocardiogram as an outpatient for 
evaluation of your heart. 

  Please weigh yourself every day in the morning after you go to 
the bathroom and before you get dressed. If your weight goes up 
by more than 3 lbs in 1 day or more than 5 lbs in 3 days, please 
call your heart doctor or your primary care doctor and alert 
them to this change. 
 
 We wish you the best with your health,  
 Your ___ Cardiac Care Team  
 
Followup Instructions:
___